US04886814
(c) N-[2-(4-Carbomethoxymethoxyphenyl)ethyl]-2-hydroxy-2-(2-methyl-thiazol-4-yl)ethanamine hydrochloride
100 mg (2.1 mmol) of Sodium hydride dispersion (50% in paraffin oil) are added to 280 mg (1 mmol) of N-[2-(4-hydroxyphenyl)ethyl]-2-hydroxy-2-(2-methylthiazol-4-yl)ethanamine hydrochloride dissolved in 7 ml of absolute dimethyl formamide. After stirring at room temperature for 15 minutes, the solution of 153 mg (1 mmol) of ethyl bromoacetate in 3 ml of absolute dimethylformamide is rapidly added dropwise. The mixture is then stirred overnight, 20 ml of saturated sodium bicarbonate solution are added, and extraction with methylene chloride is carried out. The extracts are dried, concentrated and, after dissolution in ether/methanol, the hydrochloride is precipitated with ethereal hydrochloric acid.

reactant | Sodium hydride | 2.1 mmol, 100 mg | [H-].[Na+]
reactant | N-[2-(4-hydroxyphenyl)ethyl]-2-hydroxy-2-(2-methylthiazol-4-yl)ethanamine hydrochloride | 1 mmol, 280 mg | Cl.OC1=CC=C(C=C1)CCNCC(C=1N=C(SC1)C)O
reactant | ethyl bromoacetate | 1 mmol, 153 mg | BrCC(=O)OCC | C4H7BrO2
reactant | sodium bicarbonate | 20 ml | C([O-])(O)=O.[Na+]
solvent | dimethyl formamide | 7 ml | CN(C=O)C | C3H7NO
solvent | dimethylformamide | 3 ml | CN(C=O)C | C3H7NO
product | N-[2-(4-Carbomethoxymethoxyphenyl)ethyl]-2-hydroxy-2-(2-methyl-thiazol-4-yl)ethanamine hydrochloride | Cl.C(=O)(OC)COC1=CC=C(C=C1)CCNCC(C=1N=C(SC1)C)O | InChI=1S/C17H22N2O4S.ClH/c1-12-19-15(11-24-12)16(20)9-18-8-7-13-3-5-14(6-4-13)23-10-17(21)22-2;/h3-6,11,16,18,20H,7-10H2,1-2H3;1H
